US06110937
2,2,2-Trifluoroethyl triflate (1.02 g, 4.40 mmol) and potassium carbonate (1.10 g, 1.01 mmol) were added to a solution of 4-hydroxy-2,6-dimethylphenyl acetate (673 mg, 3.73 mmol) in 2-butanone (15 mL). The mixture was stirred at 70° C. for 72 hours, then cooled to room temperature and concentrated. The residue was partitioned between water and ethyl acetate. The organic layer was washed twice with water and brine and dried. The solvent was removed in vacuo and the residue purified on silica gel, eluting with 10% ethyl acetate in hexanes, to give 2,6-dimethyl-4-(2,2,2-trifluoroethoxy)phenyl acetate (733 mg, 75%).

reactant | 2,2,2-Trifluoroethyl triflate | 4.40 mmol, 1.02 g | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
reactant | potassium carbonate | 1.01 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxy-2,6-dimethylphenyl acetate | 3.73 mmol, 673 mg | C(C)(=O)OC1=C(C=C(C=C1C)O)C | C10H12O3
solvent | 2-butanone | 15 mL | CC(CC)=O | C4H8O
product | 2,6-dimethyl-4-(2,2,2-trifluoroethoxy)phenyl acetate | 733 mg, 75% | C(C)(=O)OC1=C(C=C(C=C1C)OCC(F)(F)F)C | C12H13F3O3
